Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
dyspnea on exertion
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with a history of of HTN, CAD s/p DES with ischemic MR and 
systolic dysfunction, ___ on torsemide, hx of DVT, who presents 
with 4 days of dyspnea on exertion, leg swelling, and 10 weight 
gain.

Of note, patient was seen in the Heart Failure Clinic with Dr. 
___ on ___ where she noted that she has had 
persistent dyspnea on exertion and PND after a lengthy prior 
hospitalization for DVT/GIB. At that time she was started on 
40mg po torsemide which initially improved her symptoms. 

Over the holiday she indulged in a high salt diet and developed 
slow-onset dyspnea on exertion. Denies any medication 
noncompliance, chest pain, palpitations, palpitations. Describes 
PND, worsening exercise tolerance (unable to walk >50 feet) and 
orthopnea. 

In the ED, patient was found to have 1+ bilateral lower 
extremity edema, and have bibasilar crackles on exam. Patient 
underwent CXR, BNP, and was given one dose of IV 40mg Lasix. In 
the ED initial vitals were: 97.8 73 199/100 18 95% RA. Prior to 
transfer, vitals were 74 188/95 18 100% RA. Patient's labs were 
remarkable for sodium 146, Chloride 115, K 5.4, Bicarb 19, BUN 
39, Creatinine 2.3. Patient had CK 229, with MB 6, Trop < 0.01. 
Patient had BNP of 10,180. Patient also had Hgb 8.1, Hct 26.8, 
Platelet 168, WBC 5.4. Urinalysis still pending upon discharge. 

EKG: notable for SR 76, with LAD, TWI in the inferior leads 
which appears unchanged from prior on ___

On the floor she is symptomatically improved since coming to the 
ED. 
 
Past Medical History:
- hypertension  
- diabetes  
- hx CVA (cerebellar-medullary stroke in ___  
- CAD (hx of MI in ___ BMS to circumflex and POBA ___  
- peripheral arterial disease- claudication, followed by 
vascular, managed conservatively
- stage IV CKD (baseline 2.1-2.6)  
- GERD/esophageal rings
 
Social History:
___
Family History:
Father died in his ___ due to lung disease.  Mother died in her 
___ due to an unknown cause.  No early CAD or sudden cardiac 
death. No other known history of cancer.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
VS: T=98.0 BP: 168/96 HR=67 RR=16 O2 sat=100% on 2L NC  
Admission weight 178lbs
GENERAL: WDWN, obese, sitting upright in bed, in NAD. AOx3. 
Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa.
NECK: Supple with JVP of 8cm.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2, +S3. No murmurs/rubs/gallops. No 
thrills, lifts. 
LUNGS: Resp were unlabored, no accessory muscle use, dyspneic at 
the end of a long sentence. Bibasilar crackles ___ up thorax, 
diffuse wheezing.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: 2+ edema to shins. No femoral bruits.  
PULSES:  Distal pulses palpable and symmetric

DISCHARGE PHYSICAL EXAMINATION:  
VS: T=98.0 BP: 135/72 HR=67 RR=16 O2 sat=100% on RA
weight: 74kg
GENERAL: WDWN, obese, sitting upright in bed, in NAD. AOx3. 
Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa.
NECK: Supple with JVP of 7cm.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2, +S3. No murmurs/rubs/gallops. No 
thrills, lifts. 
LUNGS: Resp were unlabored, no accessory muscle use. Bibasilar 
crackles trace, diffuse wheezing.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: dry. No femoral bruits.  
PULSES:  Distal pulses palpable and symmetric
 
Pertinent Results:
ADMISSION LABS
___ 11:55AM BLOOD WBC-5.4 RBC-2.63* Hgb-8.1* Hct-26.8* 
MCV-102*# MCH-30.8 MCHC-30.2* RDW-17.2* RDWSD-64.7* Plt ___
___ 11:55AM BLOOD Neuts-80.6* Lymphs-11.2* Monos-5.0 
Eos-2.4 Baso-0.2 Im ___ AbsNeut-4.38 AbsLymp-0.61* 
AbsMono-0.27 AbsEos-0.13 AbsBaso-0.01
___ 12:45PM BLOOD ___ PTT-32.9 ___
___ 07:30AM BLOOD Ret Aut-2.4* Abs Ret-0.06
___ 11:55AM BLOOD Glucose-153* UreaN-39* Creat-2.3* Na-146* 
K-5.4* Cl-115* HCO3-19* AnGap-17
___ 11:55AM BLOOD CK-MB-6 cTropnT-<0.01 ___
___ 07:38PM BLOOD CK-MB-6 cTropnT-<0.01
___ 11:55AM BLOOD Calcium-9.0 Phos-3.9 Mg-1.8

DISCHARGE LABS
=====
___ 07:10AM BLOOD WBC-3.9* RBC-2.81* Hgb-8.6* Hct-26.7* 
MCV-95 MCH-30.6 MCHC-32.2 RDW-16.0* RDWSD-56.4* Plt ___
___ 07:10AM BLOOD ___
___ 07:10AM BLOOD Glucose-100 UreaN-37* Creat-1.9* Na-144 
K-3.9 Cl-105 HCO3-29 AnGap-14
___ 07:10AM BLOOD Calcium-9.5 Phos-4.4 Mg-1.8

IMAGING
=====
___ CXR
FINDINGS: 
There is mild pulmonary edema with superimposed region of more 
confluent consolidation in the left upper lung.  There are 
possible small bilateral pleural effusions.  Moderate 
cardiomegaly is again seen as well as tortuosity of the 
descending thoracic aorta.  No acute osseous abnormalities.
 
IMPRESSION: 
Mild pulmonary edema with superimposed left upper lung 
consolidation, potentially more confluent edema versus 
superimposed infection.

 
Brief Hospital Course:
___ year-old female with history of hypertension, CAD s/p DES 
with ischemic MR and systolic dysfunction, ___, hx of DVT, who 
admitted for CHF exacerbation.

# Acute on chronic decompensated heart failure: presented in the 
setting of high salt diet with dyspnea on exertion, decreased 
exercise tolerance, ___ edema, crackles on exam, elevated BNP to 
10K, 8lbs above dry weight and pulmonary congestion on CXR. 
Later discovered on pharmacy review that patient had not filled 
torsemide after last outpatient Cardiology appointment where she 
was instructed to start taking it. Troponins cycled and 
negative. On admission, she was placed on a salt and fluid 
restricted diet. She was diuresed with IV Lasix 80mg for 2 days 
and then transitioned to po torsemide 40mg with steady weight 
decline and net negative fluid balance of goal -___ and 
stable renal function. Electrolytes repleted for goal Mg>2 and 
K>4. She was continued on home carvedilol 12.5mg BID, 
atorvastatin 80mg daily and lisinopril 40mg daily for blood 
pressure control and increased home nifedipine CR from 30 to 
60mg BID to achieve goal SBP <140. Discharged with close PCP and 
___ to monitor weights and blood pressure 
control.

# Hypertension: She was continued on home carvedilol 12.5mg BID, 
atorvastatin 80mg daily and lisinopril 40mg daily for blood 
pressure control and increased home nifedipine CR from 30 to 
60mg BID to achieve goal SBP <140. 

# Positive U/A: patient asymptomatic but with 32WBCs, ___, 
+bacteria (although 3 epis). Asymptomatic with no 
fevers/dysuria/malaise. Urine culture negative.

# Left upper lung consolidation: infiltrate per Radiology read 
on admission CXR. No cough, fevers, leukocytosis. Rereviewed 
with on-call radiologist who favored pulmonary edema with no 
need for repeat imaging or PNA treatment unless clinically 
indicated. Monitored without any significant clinical findings.

# DVT: anticoagulated on Coumadin goal 2.0-3.0, no signs of 
thrombus on exam. Daily INR trended and continued on home 
Coumadin 5mg daily. 

# Anemia: no signs of external loss, specifically denying any 
melena. Chronically anemic with baseline ___, presented with Hgb 
8. Likely ___ renal disease and ACD however elevated MCV 
indicates possible reticulocytosis. Altogether low suspicion for 
GIB so Coumadin was continued. Reticulocytes 2.4 which is 
inappropriate arguing against acute loss. Trended daily CBC with 
noted uprising by discharge.

# Chronic kidney disease, stage IV- baseline ___, likely ___ 
HTN and DM. Renally dosed medications and trended Cr with no 
significant change. 
# HLD: continued home atorvastatin
# DM: held home 25U 70/30.  Patient maintained on aspart ISS and 
glargine qHS with good glycemic control.

TRANSITIONAL ISSUES
==================
CHF: diuresed with IV lasix, transitioned to po diuretics, 
discharged home on 40mg po torsemide, to take in the AM and take 
a banana. Pt complained of unilateral R-sided incomplete hearing 
loss on day of discharge- was not felt to be related to 
diuretics but would ___.
HTN: increased nifedipine CR to 60mg BID given elevated SBPs. 
Please f/u at next appointments.
Anemia: multiple prior workups showing ACD. Hgb 8s during 
admission
Prior DVT/PE: continued on warfarin, will need continued 
monitoring
DM: stopped home 70/30 while in-house and put on 
aspart/glargine, discharged on home regimen

Discharge weight: 74kg
Discharge Cr: 1.9
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 325-650 mg PO Q6H:PRN pain or fever 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. Carvedilol 12.5 mg PO BID 
5. Docusate Sodium 100 mg PO BID 
6. Gabapentin 100 mg PO QHS neuropathic pain 
7. Lisinopril 40 mg PO DAILY 
8. Multivitamins 1 TAB PO DAILY 
9. NIFEdipine CR 30 mg PO BID 
10. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
11. Pantoprazole 40 mg PO Q12H 
12. Polyethylene Glycol 17 g PO DAILY 
13. Senna 8.6 mg PO BID constipation 
14. Vitamin D ___ UNIT PO DAILY 
15. Warfarin 5 mg PO DAILY16 
16. Allopurinol ___ mg PO EVERY OTHER DAY 
17. Torsemide 40 mg PO DAILY 
18. HumuLIN 70/30 (insulin NPH and regular human) 100 unit/mL 
(70-30) subcutaneous 25 units with dinner 

 
Discharge Medications:
1. HumuLIN 70/30 (insulin NPH and regular human) 100 unit/mL 
(70-30) subcutaneous 25 units with dinner 
2. Warfarin 5 mg PO DAILY16 
3. Vitamin D ___ UNIT PO DAILY 
4. Acetaminophen 325-650 mg PO Q6H:PRN pain or fever 
5. Allopurinol ___ mg PO EVERY OTHER DAY 
6. Aspirin 81 mg PO DAILY 
7. Atorvastatin 80 mg PO QPM 
8. Docusate Sodium 100 mg PO BID 
9. Gabapentin 100 mg PO QHS neuropathic pain 
10. Lisinopril 40 mg PO DAILY 
11. Multivitamins 1 TAB PO DAILY 
12. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
13. Polyethylene Glycol 17 g PO DAILY 
14. Senna 8.6 mg PO BID constipation 
15. Torsemide 40 mg PO DAILY 
RX *torsemide 20 mg 2 tablet(s) by mouth once daily Disp #*60 
Tablet Refills:*0
16. Pantoprazole 20 mg PO Q12H 
17. Carvedilol 25 mg PO BID 
18. NIFEdipine CR 60 mg PO BID 
RX *nifedipine 20 mg 3 capsule(s) by mouth twice daily Disp 
#*180 Capsule Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses:
Acute on chronic decompensated congestive Heart Failure
Hypertension

Secondary Diagnoses:
Anemia
Diabetes mellitus
Prior deep vein thrombosis
Chronic Kidney Disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mrs. ___, 

___ were admitted to ___ for treatment of your congestive 
heart failure and hypertension. ___ were given IV diuretics with 
improvement in your symptoms, labs and exam. We increased one of 
your blood pressure medications and continued your other home 
medicines. 

It was a pleasure taking care of ___ during your stay- we wish 
___ all the best!

- Your ___ Team
 
Followup Instructions:
___